US06500822B2
To a solution of (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine hydrochloride prepared as described in Example 1 (500 mg, 2 mmol, 1 eq) and triethylamine (0.3 mL, 2.2 mmol, 1.1 eq.) in 1,2-dichlororethane (20 mL) under inert atmosphere was added the 3-oxo-4-(4-oxo-butyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (550 mg, 2 mmol, 1 eq.) in a single portion followed by the sodium triacetoxyborohydride (650 mg, 3 mmol, 1.5 eq.). The reaction was stirred at room temperature for 20 hr, concentrated in-vacuo and then partitioned between 10% KOH (40 mL) and ethyl acetate (75 mL), the organic layer was washed with brine, dried (MgSO4) and concentrated. Purification by chromatography provided 858 mg of 4-{4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-butyl}-3-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester.

reactant | (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine hydrochloride | Cl.COC1=CC=C2CCC(CC2=C1)NCCC
reactant | triethylamine | 2.2 mmol, 0.3 mL, 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-4-(4-oxo-butyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 2 mmol, 550 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(N(CCC1)CCCC=O)=O | C14H24N2O4
reactant | sodium triacetoxyborohydride | 3 mmol, 650 mg, 1.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-{4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-butyl}-3-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 858 mg | C(C)(C)(C)OC(=O)N1CC(N(CCC1)CCCCN(CCC)C1CC2=CC(=CC=C2CC1)OC)=O | C28H45N3O4
